US04970207
A mixture of (3RS)-1,3-dihydro-3-acetoxy-5-phenyl-2H-1,4-benzodiazepine-2-one (11.75 g), potassium phthalimide (11.1 g), sodium iodide (60 g) and N,N-dimethylformamide (80 ml) was stirred for 45 minutes at 90° to 95° C. The reaction mixture was poured into a cold water (1 l). The precipitates were collected by filtration, washed with water and recrystallized from ethanol to give (3RS)-1,3-dihydro-5-phenyl-3-phthalimido-2H-1,4-benzodiazepine-2-one (8.32 g).

reactant | (3RS)-1,3-dihydro-3-acetoxy-5-phenyl-2H-1,4-benzodiazepine-2-one | 11.75 g | C(C)(=O)OC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C17H14N2O3
reactant | potassium phthalimide | 11.1 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | sodium iodide | 60 g | [I-].[Na+]
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | 1 l | O | H2O
product | (3RS)-1,3-dihydro-5-phenyl-3-phthalimido-2H-1,4-benzodiazepine-2-one | 8.32 g | C1(=CC=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C23H15N3O3
